US04602027
4-Hydroxymethyl-5-methyl-2-styryloxazole (1.0 g) was added to thionyl chloride (3 ml) and the mixture was allowed to stand at room temperature for 30 minutes. The thionyl chloride was distilled off under reduced pressure. The residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and isopropyl ether was added to the residue to give 4-chloromethyl-5-methyl-2-styryloxazole as crystals; yield 0.98 g (90.7%). Recrystallization from ether gave light-yellow plates melting at 108°-109° C.

reactant | 4-Hydroxymethyl-5-methyl-2-styryloxazole | 1.0 g | OCC=1N=C(OC1C)C=CC1=CC=CC=C1 | C13H13NO2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloromethyl-5-methyl-2-styryloxazole | ClCC=1N=C(OC1C)C=CC1=CC=CC=C1 | C13H12ClNO
